US06297258B1
4-(3-Hydroxymethyl-piperidin-1-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide Hydrochloride
By using the method of Example 89, 1.1 g (3.2 mmol) of 6-amino-4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinoline-3-carbonitrile and 2.2 g (19.2 mmol) of 3-hydroxymethyl-piperidine were converted to 0.76 g the title compound, obtained as a yellow powder: mass spectrum (electrospray, m/e): M+H 524.0, (M+2H)+2262.3.

reactant | 6-amino-4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinoline-3-carbonitrile | 3.2 mmol, 1.1 g | NC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=C(C=C1)F)Cl | C17H12ClFN4O
reactant | 3-hydroxymethyl-piperidine | 19.2 mmol, 2.2 g | OCC1CNCCC1 | C6H13NO
product | 4-(3-Hydroxymethyl-piperidin-1-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide Hydrochloride | 0.76 g | Cl.ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1CC(CCC1)CO)=O)OC)C#N | InChI=1S/C27H27ClFN5O3.ClH/c1-37-25-12-23-20(27(18(13-30)14-31-23)32-19-6-7-22(29)21(28)10-19)11-24(25)33-26(36)5-3-9-34-8-2-4-17(15-34)16-35;/h3,5-7,10-12,14,17,35H,2,4,8-9,15-16H2,1H3,(H,31,32)(H,33,36);1H
